US08378104B2
Step C: 1-(1,4-dioxaspiro[4.5]dec-8-yl)-4-iodo-1H-pyrazole
A suspension of sodium hydride (72.6 mg, 1.82 mmol) in DMF (1 mL); was cooled in an ice/water bath and treated with a solution of 4-iodopyrazole (242 mg, 1.21 mmol) in DMF (2 mL) added dropwise under an atmosphere of nitrogen in 5 min. After stirring in the cold for another 30 min, a solution of 1,4-dioxaspiro[4.5]dec-8-yl methanesulfonate (321 mg, 1.33 mmol) in DMF (2 mL) was added dropwise at 0° C. The mixture was warmed to RT and was then immersed in 150° C. oil bath and stirred for 2 h. The mixture was treated with water (15 mL), extracted with EtOAc (3×20 mL). The extracts were washed with water (3×15 mL), brine (15 mL), dried over MgSO4. After concentration in vacuo, a brown solid was obtained. It was dissolved in MeOH and after water was added, a solid formed, which was filtered off to give 266 mg (66%) of the title compound as a white crystalline solid. 1H NMR (400 MHz, CDCl3): δ 7.50 (s, 1 H), 7.49 (s, 1 H), 4.23 (tt, J=4.2, 11.2 Hz, 1 H), 2.34-2.20 (m, 1 H), 2.21-1.96 (m, 4 H), 1.95-1.81 (m, 2 H), 1.82-1.66 (m, 3 H), 1.33-1.22 (m, 2 H); MS (ESI): 334.96 [M+H]+; HPLC tR=3.26 min.

reactant | sodium hydride | 1.82 mmol, 72.6 mg | [H-].[Na+]
reactant | 4-iodopyrazole | 1.21 mmol, 242 mg | IC=1C=NNC1 | C3H3IN2
reactant | 1,4-dioxaspiro[4.5]dec-8-yl methanesulfonate | 1.33 mmol, 321 mg | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
reactant | water | 15 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-(1,4-dioxaspiro[4.5]dec-8-yl)-4-iodo-1H-pyrazole | 266 mg, 66% | O1CCOC12CCC(CC2)N2N=CC(=C2)I | C11H15IN2O2
